US06211242B1
To a suspension of N-[2-(4-nitrophenylcarbonyloxy)-4-methylphenyl]-4-nitrobenzamide (12.5 g) was added 1N sodium hydroxide (20 ml) at ambient temperature. After 3 hours, ethyl acetate (100 ml) and water (200 ml) was added to this solution and resulting solid was filtered and washed with water and diethyl ether to give N-(2-hydroxy-4-methylphenyl)-4-nitrobenzamide (3.9 g) as yellow crystal.

reactant | N-[2-(4-nitrophenylcarbonyloxy)-4-methylphenyl]-4-nitrobenzamide | 12.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=O)OC1=C(C=CC(=C1)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C21H15N3O7
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 200 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)-4-nitrobenzamide | 3.9 g | OC1=C(C=CC(=C1)C)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O4
